US09382188B2
C) ethyl 3-cyclopropyl-3-(3-(((5-neopentyl-6-(((trifluoromethyl)sulfonyl)oxy)pyridin-3-yl)oxy)methyl)phenyl)propanoate
To a solution of ethyl 3-cyclopropyl-3-(3-(((6-hydroxy-5-neopentylpyridin-3-yl)oxy)methyl)phenyl)propanoate (2.60 g) in pyridine (20 mL) was added trifluoromethanesulfonic acid anhydride (3.57 g) under ice-cooling, and the mixture was stirred for 5 min. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (3.09 g) as a colorless oil.

reactant | ethyl 3-cyclopropyl-3-(3-(((6-hydroxy-5-neopentylpyridin-3-yl)oxy)methyl)phenyl)propanoate | 2.60 g | C1(CC1)C(CC(=O)OCC)C1=CC(=CC=C1)COC=1C=NC(=C(C1)CC(C)(C)C)O | C25H33NO4
reactant | trifluoromethanesulfonic acid anhydride | 3.57 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | Water | O | H2O
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
product | ethyl 3-cyclopropyl-3-(3-(((5-neopentyl-6-(((trifluoromethyl)sulfonyl)oxy)pyridin-3-yl)oxy)methyl)phenyl)propanoate | 3.09 g | C1(CC1)C(CC(=O)OCC)C1=CC(=CC=C1)COC=1C=NC(=C(C1)CC(C)(C)C)OS(=O)(=O)C(F)(F)F | C26H32F3NO6S
